Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Demerol / Ativan
 
Attending: ___
 
Chief Complaint:
Nausea, vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo man w/hx of DM1 c/b neuropathy, gastroparesis, s/p 
pancreas tx ___ on Prograf and Cellcept, now presents with 
nausea/vomiting, abdominal pain consistent with prior episodes 
of gastroparesis. Nausea x3 days, vomiting today every 15 
minutes. Abdominal pain worsened acutely this morning which is 
why he presented to the ED.  
.  
In the ED, initial vital signs were T 97.6, HR 71, BP 138/82, RR 
18, satting 100%RA. Labs showed hct 37.5 (up from baseline mid 
to low thirties), white count 8.7 with 89.5%polys. Liver enzymes 
and lipase were WNL. Chem7 showed bicarb of 18 with AG 18. Renal 
function slightly up from baseline, creatinine 1.2 from baseline 
1.0. Patient got 4mg IV morphine x3 without effect, then 1mg 
Dilaudid x2 with adequate pain relief, then 8mg IV Zofran, 10mg 
IV compazine, and Reglan for nausea. He got 2L normal saline. 
Vitals at time of transfer were T 99, HR 55, BP 147/63, RR 16, 
O2 sat 99%RA. Lactate was 2.3.  
.  
Currently, he continues to have nausea with dry heaving. Says 
his abdominal pain is similar in location and quality to past 
pancreatitis flares. He has had mild diarrhea for the last two 
days. He denies urinary symptoms. He denies cough, shortness of 
breath, sputum production, or fever. 

 
Past Medical History:
Pancreatic transplant ___  
DM2 c/b gastroparesis, peripheral neuropathy  
Hep C  
Glaucoma  
?Seizures  
Right knee surgery 

 
Social History:
___
Family History:
NC
 
Physical Exam:
Vitals - T: 99.5, BP: 157/91, HR: 63, RR: 12, 02 sat: 100%RA  
Blood sugar - 154  
GENERAL: young man in mild distress, breathing comfortably, 
answer questions appropriately  
HEENT: normocephalic, atraumatic, EOMI, no scleral icterus  
CARDIAC: regular rate and rhythm, normal S1/S2, no murmurs  
LUNG: clear bilaterally anterior fields  
ABDOMEN: moderate diffuse tenderness, normal bowel sounds  
EXT: warm and well-perfused, non-edematous  
NEURO: alert and oriented x3, moving all extremities  
SKIN: numerous tattoos 

 
Pertinent Results:
LABS ON ADMISSION:

___ 07:10AM   GLUCOSE-152* UREA N-22* CREAT-0.9 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-105 TOTAL CO2-16* ANION GAP-23
___ 07:10AM   CALCIUM-9.2 PHOSPHATE-3.3# MAGNESIUM-1.8
___ 07:36AM   LACTATE-2.0
___ 07:10AM   tacroFK-4.0*
___ 07:10AM   WBC-9.7 RBC-3.64* HGB-10.9* HCT-32.5* MCV-89 
MCH-29.9 MCHC-33.6 RDW-14.7
___ 07:10AM   PLT COUNT-317
___ 09:45PM   ALT(SGPT)-10 AST(SGOT)-23 ALK PHOS-101 TOT 
BILI-0.6
___ 09:45PM   LIPASE-27
___ 09:45PM   ALBUMIN-5.0*

___ 07:10AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:41AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-NEG 
GLUCOSE-TR KETONE-150 BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 01:41AM URINE  RBC-0 ___ BACTERIA-NONE YEAST-NONE 
EPI-<1

CULTURES:
Blood cx (___): No growth to date.

IMAGING:
CXR (___) IMPRESSION: AP chest compared to ___: 
Lungs fully expanded and clear. Heart size normal. No pleural 
abnormality or evidence of central adenopathy. Right aortic 
arch.

CT ABDOMEN/PELVIS (___) IMPRESSION: 1. Status post 
pancreatic transplant in the right lower quadrant, which appears 
unremarkable. 2. No acute findings in the abdomen or pelvis to 
explain patient's low-grade temperature. 

 
Brief Hospital Course:
1. GASTROPARESIS: The patient was admitted for nausea and 
vomiting, which was similar in nature to past episodes of 
gastroparesis.  When he initially presented, he had a starvation 
ketoacidosis, which was managed with a combination of ___ and 
insulin sliding scale.  Anion gap improved with this regimen. 
His symptoms were managed with IVF and antiemetics but relieved 
most with phenergan.  The patient was started on this medication 
as an outpatient. He was also placed on morphine for abdominal 
pain and vomiting. He was advanced as tolerated and eating a 
regular diet on discharge.

2. FEVER: During hospitalization course, the patient had a 
temperature spike to 100.4. He was worked up for a source: UA, 
chest Xray, CT abdomen, and blood cultures (to date)were 
negative.

3. IMMUNOSUPPRESSIVE THERAPY: While hospitalized, cellcept was 
changed to myfortic 360mg TID. He was continued on Prograf 4mg 
Q12H. Note that the patient had been able to tolerate his meds 
despite nausea and vomiting. He will follow up with Dr. ___ 
as an outpatient.
 
Medications on Admission:
-mycophenolate mofetil 500mg tid  
-Bactrim SS qday  
-omeprazole 20mg qday  
-Diazepam 10mg q6h prn for anxiety  
-Dronabinol 10mg tid  
-duloxetine 90mg qday  
-gabapentin 600mg q8h  
-metoclopramide 20mg qidachs  
-topiramate 25mg qday prn for headaches  
-fentanyl 75mcg patch q72h  
-aspirin 81mg qday  
-tacrolimus 4mg q12h  
-compazine 10mg q6h prn  

 
Discharge Medications:
1. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
2. Dronabinol 2.5 mg Capsule Sig: Four (4) Capsule PO TID (3 
times a day).  
3. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Three 
(3) Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. Gabapentin 300 mg Capsule Sig: Two (2) Capsule PO Q8H (every 
8 hours).  
5. Metoclopramide 10 mg Tablet Sig: Two (2) Tablet PO QIDACHS (4 
times a day (before meals and at bedtime)).  
6. Topiramate 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
as needed for headaches.  
7. Fentanyl 75 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
8. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
9. Tacrolimus 1 mg Capsule Sig: Four (4) Capsule PO Q12H (every 
12 hours).  
10. Mycophenolate Sodium 180 mg Tablet, Delayed Release (E.C.) 
Sig: Two (2) Tablet, Delayed Release (E.C.) PO TID (3 times a 
day).
Disp:*180 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
11. Compazine 10 mg Tablet Sig: One (1) Tablet PO Q12 PRN as 
needed for nausea.  
12. Diazepam 10 mg Tablet Sig: One (1) Tablet PO Q6H PRN as 
needed for anxiety.  
13. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
14. Phenergan 25 mg Tablet Sig: One (1) Tablet PO Q8H PRN as 
needed for nausea.
Disp:*15 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Diabetic Gastroparesis
2. s/p Pancreatic Transplant

 
Discharge Condition:
Stable, afebrile, tolerating PO.

 
Discharge Instructions:
You were admitted to the hospital with nausea and vomiting 
secondary to diabetic gastroparesis. You were given fluids and 
anti-nausea medications, as well as pain medications.  While you 
were hospitalized, you had a fever, so we did a chest Xray and 
CT scan of your abdomen to determine a source of infection. 

The chest Xray showed no source of infection in  your lungs.
The CT scan showed no source of infection in your abdomen.
The blood cultures we drew have been negative so far.

You are being given a prescription for phenergan, which helped 
with your nausea.  You can take this medication every ___ hours 
as needed for nausea.  Note that when it is combined with 
narcotics or other sedating medications, it can cause your level 
of sedation and decrease your respiratory rate.  

Please STOP taking cellcept and START taking myfortic 360mg 
three times a day.

Return to the ER if you experience a recurrence of 
nausea/vomiting, fevers/chills, shortness of breath, chest pain, 
blood in your stools, or any other symptoms that are concerning 
to you.
 
Followup Instructions:
___